* and_2


.subckt and_2 A 3 Z GND! VDD! B 8 
M1 Z 3 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.6125 $Y=0.3135 
M2 3 A 8 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.4865 $Y=0.2430 
M3 8 B GND! nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.4445 $Y=0.2918 
M4 Z 3 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.6125 $Y=0.3135 
M5 3 A VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.5285 $Y=0.3387 
M6 3 B VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.4445 $Y=0.2918 
.ends and_2

