* bitcell


.subckt bitcell 2 3 WL VDD! GND! BLB BL 
M1 BL WL 3 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.1680 $Y=-0.0410 
M2 GND! 2 3 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.0840 $Y=-0.0010 
M3 2 3 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.0000 $Y=-0.0010 
M4 2 WL BLB nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=-0.0840 $Y=-0.0410 
M5 VDD! 2 3 pmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.0840 $Y=-0.0010 
M6 2 3 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.0000 $Y=-0.0010 
.ends bitcell

